### PR TITLE
[Merged by Bors] - feat(RingTheory/Valuation/RankOne): add rank one valuations

### PR DESCRIPTION
**Pull request by mariainesdff**
Add the definition of rank one valuation, as well as some basic lemmas.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Valuation/RankOne.lean [hunk 1]
```diff
@@ -0,0 +1,73 @@
...
+open Function Multiplicative
+
+open scoped NNReal
+
+variable {R : Type*} [Ring R] {Γ₀ : Type*} [LinearOrderedCommGroupWithZero Γ₀]
+
+namespace Valuation
+
+/-- A valuation has rank one if it is nontrivial and its image is contained in `ℝ≥0`. -/
+class IsRankOne (v : Valuation R Γ₀) where
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/RankOne.lean:33]: In this way `IsRankOne` is not a `Prop` right? I am not sure, but maybe we can redefine it asking the existence of `hom` (and then using choice to get one if we need).

Comment (mariainesdff) [reply Mathlib/RingTheory/Valuation/RankOne.lean:33]: Defining it as a `Prop` was my first approach, but I decided it against it because then I lose control of normalizations. In [this file](https://github.com/mariainesdff/norm_extensions_lean_4/blob/master/NormExtensions/NormedValued.lean), I define a dictionary between rank one valuations and nontrivial nonarchimedean norms, and I want to make sure that the normalized p-adic valuation corresponds to the normalized p-adic norm under this dictionary, but this isn't true if I can't control the inclusion of `WithZero (Multiplicative Z)` in `NNReal`. (I guess this may be possible renormalizing the map given by the existential, but then the dictionary will get more complicated).

Comment (riccardobrasca) [reply Mathlib/RingTheory/Valuation/RankOne.lean:33]: OK, if you have reasons to do it this way no problems. I am not sure about the name, even if we use `IsBlah` for non `Prop` in other places (but people regularly complain on Zulip).

Comment (riccardobrasca) [reply Mathlib/RingTheory/Valuation/RankOne.lean:33]: @kbuzzard what do you think? (Asking because you were involved in the Zulip discussion)

Comment (kbuzzard) [reply Mathlib/RingTheory/Valuation/RankOne.lean:33]: Yes I think `IsRankOne` is a recipe for confusion because people will assume it's a Prop. I don't think there are so many other places where we're using `Is` for a non-Prop: `IsROrC` got changed to `RCLike` for example.  Very happy with `RankOne`.

File: Mathlib/RingTheory/Valuation/RankOne.lean [hunk 2]
```diff
@@ -0,0 +1,73 @@
...
+
+open Function Multiplicative
+
+open scoped NNReal
+
+variable {R : Type*} [Ring R] {Γ₀ : Type*} [LinearOrderedCommGroupWithZero Γ₀]
+
+namespace Valuation
+
+/-- A valuation has rank one if it is nontrivial and its image is contained in `ℝ≥0`. -/
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Valuation/RankOne.lean:32]: There should be a note in the docstring that this class contains the data of an injection of the target monoid into NNReal, so it's not a Prop.

If we want `IsRankOne`, it's just `Nonempty (RankOne)`.

File: Mathlib/RingTheory/Valuation/RankOne.lean [hunk 3]
```diff
@@ -0,0 +1,73 @@
...
+
+lemma strictMono : StrictMono (hom v) := strictMono'
+
+lemma nontrivial : ∃ r : R, v r ≠ 0 ∧ v r ≠ 1 := nontrivial'
+
+/-- If `v` is a rank one valuation and `x : Γ₀` has image `0` under `is_rank_one.hom v`, then
+  `x = 0`. -/
+theorem zero_of_hom_zero {x : Γ₀} (hx : IsRankOne.hom v x = 0) : x = 0 := by
+  have hx0 : 0 ≤ x := zero_le'
+  cases' le_iff_lt_or_eq.mp hx0 with h_lt h_eq
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Valuation/RankOne.lean:51]: I wasn't sure if `cases'` was still OK (I asked [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Is.20cases'.20deprecated.3F/near/433616450), sorry to hold things up).

File: Mathlib/RingTheory/Valuation/RankOne.lean [hunk 4]
```diff
@@ -0,0 +1,73 @@
...
+  · exact h_eq.symm
+
+/-- If `v` is a rank one valuation, then`x : Γ₀` has image `0` under `is_rank_one.hom v` if and
+  only if `x = 0`. -/
+theorem hom_eq_zero_iff {x : Γ₀} : IsRankOne.hom v x = 0 ↔ x = 0 :=
+  ⟨fun h => zero_of_hom_zero v h, fun h => by rw [h, _root_.map_zero]⟩
+
+/-- A nontrivial unit of `Γ₀`, given that there exists a rank one `v : valuation R Γ₀`. -/
+def Unit : Γ₀ˣ :=
+  Units.mk0 (v ((nontrivial v).choose )) ((nontrivial v).choose_spec).1
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Valuation/RankOne.lean:64]: Shouldn't this be `unit` because it's a term not a type? Similarly `Unit_le_one` below.

You could furthermore demand that the unit has norm strictly less than one, i.e. take the chance to normalise it now. You're already doing it nonconstructively. But probably you know more about why you want this than me.

**Review by kbuzzard — COMMENTED** [review]
Thanks! Very much looking forward to seeing this definition in mathlib -- I need it to do the Tate curve in correct generality.

File: Mathlib/RingTheory/Valuation/RankOne.lean (hunk 3 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/Valuation/RankOne.lean:51]: I can change it to cases.

File: Mathlib/RingTheory/Valuation/RankOne.lean (hunk 4 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/Valuation/RankOne.lean:64]: So far, I just use this unit to show that `Γ₀ˣ` is nontrivial.

File: Mathlib/RingTheory/Valuation/RankOne.lean [hunk 5]
```diff
@@ -0,0 +1,77 @@
...
+  `x = 0`. -/
+theorem zero_of_hom_zero {x : Γ₀} (hx : hom v x = 0) : x = 0 := by
+  have hx0 : 0 ≤ x := zero_le'
+  cases le_iff_lt_or_eq.mp hx0
+  next h_lt =>
+    have hs := strictMono v h_lt
+    rw [_root_.map_zero, hx] at hs
+    exact absurd hs not_lt_zero'
+  next h_eq =>
+    exact h_eq.symm
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/Valuation/RankOne.lean:59]:
```suggestion
  refine ((le_iff_lt_or_eq.mp <| zero_le' (a := x)).resolve_left fun h_lt ↦ ?_).symm
  have hs := strictMono v h_lt
  rw [_root_.map_zero, hx] at hs
  exact hs.false
```

File: Mathlib/RingTheory/Valuation/RankOne.lean [hunk 6]
```diff
@@ -0,0 +1,77 @@
...
+
+/-- If `v` is a rank one valuation, then`x : Γ₀` has image `0` under `RankOne.hom v` if and
+  only if `x = 0`. -/
+theorem hom_eq_zero_iff {x : Γ₀} : RankOne.hom v x = 0 ↔ x = 0 :=
+  ⟨fun h => zero_of_hom_zero v h, fun h => by rw [h, _root_.map_zero]⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/Valuation/RankOne.lean:64]:
```suggestion
  ⟨fun h ↦ zero_of_hom_zero v h, fun h ↦ by rw [h, _root_.map_zero]⟩
```
I think in Mathlib we agreed to use "↦" in place of "=>" in functions.

**Comment by mariainesdff** [comment]
> @mariainesdff I see that you "resolved" the conversations with my comments, but did not push anything. Is this intentional?

Sorry, I thought I had pushed before switching the labels, but something must have gone wrong. It should now be there (I had accepted both proposed changes).

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

File: Mathlib/RingTheory/Valuation/RankOne.lean [hunk 7]
```diff
@@ -0,0 +1,73 @@
...
+open Function Multiplicative
+
+open scoped NNReal
+
+variable {R : Type*} [Ring R] {Γ₀ : Type*} [LinearOrderedCommGroupWithZero Γ₀]
+
+namespace Valuation
+
+/-- A valuation has rank one if it is nontrivial and its image is contained in `ℝ≥0`.
+  Note that this class includes the data of an inclusion morphismo `Γ₀ → ℝ≥0`. -/
```
Comment (jcommelin) [inline Mathlib/RingTheory/Valuation/RankOne.lean:34]:
```suggestion
  Note that this class includes the data of an inclusion morphism `Γ₀ → ℝ≥0`. -/
```
